US04325964
(1) Ethyl 4-nitrobenzylthioacetate
43.2 g (0.2 mol) of p-nitrobenzyl bromide, 200 ml of acetone, 0.2 g of potassium iodide, 24 ml of ethyl thioglycollate (that is to say a slight excess) and 27.6 g (0.2 mol) of potassium carbonate are introduced successively into a 1 liter three-necked flask. The mixture is heated under reflux for about 4 hours until the complete disappearance of the bromo derivative; the acetone is evaporated, the oil obtained is taken up in ether and in water, the ether phase is washed with a dilute NaOH solution, so as to eliminate the excess thiol, and then with a dilute HCl solution, and is dried over Na2SO4, and the solvent is evaporated. 49 g (yield: 95%) of the stated product are obtained, which is in the form of an orange-coloured oil.

reactant | p-nitrobenzyl bromide | 0.2 mol, 43.2 g | [N+](=O)([O-])C1=CC=C(CBr)C=C1 | C7H6BrNO2
reactant | acetone | 200 ml | CC(=O)C | C3H6O
reactant | ethyl thioglycollate | 24 ml | CCOC(=O)CS | C4H8O2S
reactant | potassium carbonate | 0.2 mol, 27.6 g | C([O-])([O-])=O.[K+].[K+]
solvent | ether | CCOCC | C4H10O
solvent | water | O | H2O
catalyst | potassium iodide | 0.2 g | [I-].[K+]
product | Ethyl 4-nitrobenzylthioacetate | 49 g, yield: 95% | [N+](=O)([O-])C1=CC=C(CCC(=S)OCC)C=C1 | C11H13NO3S
